US04515788
4-Nitrobenzyl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-methoxy-3-cephem-4-carboxylate (syn isomer) (2.9 g) was dissolved in a mixed solution of methanol (50 ml), tetrahydrofuran (30 ml) and glacial acetic acid (0.5 ml). After adding 10% palladium on carbon (1.5 g) to the solution, the mixture was subjected to catalytic reduction at ambient temperature under atmospheric pressure. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. Water and ethyl acetate were added to the residue and the mixture was adjusted to pH 7.5 with a saturated aqueous solution of potassium carbonate. The separated aqueous layer was adjusted to pH 2.0 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated to give 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer) (1.71 g).

reactant | 4-Nitrobenzyl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-methoxy-3-cephem-4-carboxylate | 2.9 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C=1N=CSC1 | C26H27N5O10S2
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid | 1.71 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)C=1N=CSC1 | C19H22N4O8S2
